US07179823B1
A mixture of 4-chloromethyl-2-phenylthiazole (1.19 g), ethyl 1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-carboxylate (1.65 g), potassium carbonate (1.18 g) and N,N-dimethylformamide (25 ml) was stirred overnight at 80° C. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. A mixture of the residue, potassium hydroxide (0.93 g) and ethanol (50 ml) was refluxed for 5 hours. After the reaction solvent was removed under reduced pressure, water was added to the reaction mixture, then the mixture was acidified with 1N hydrochloric acid. The crystals obtained were collected by filtration to yield 3-phenyl-1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-1H-pyrazol-4-carboxylic acid (1.82 g, yield: 76%). This was recrystallized from acetone-hexane. Melting point: 119–120° C.

reactant | 4-chloromethyl-2-phenylthiazole | 1.19 g | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
reactant | ethyl 1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-carboxylate | 1.65 g | OC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)C2=CC=CC=C2)C=C1 | C19H18N2O3
reactant | potassium carbonate | 1.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-phenyl-1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-1H-pyrazol-4-carboxylic acid | 1.82 g, yield: 76% | C1(=CC=CC=C1)C1=NN(C=C1C(=O)O)CC1=CC=C(C=C1)OCC=1N=C(SC1)C1=CC=CC=C1 | C27H21N3O3S
